US08686134B2
The first N-substitution of azepane was carried out using butyl bromide as an N-alkylating agent to form 1-butylazepane. An equimolar amount of butyl bromide was added dropwise to a solution of azepane in methanol keeping the temperature at 2° C. by an ice-water bath. The mixture was hydrolyzed with potassium carbonate, extracted with ether, and dried over Na2SO4. The solution was fractionally distilled at reduced pressure and the fraction with by 195° C. was collected. 1H-NMR (300 MHz, CDCl3) δ 0.90 (t, 3H), 1.28 (sextet, 2H), 1.42 (m, 2H), 1.60 (broad m, 8H), 2.42 (m, 2H), 2.60 (m, 4H).

reactant | azepane | N1CCCCCC1 | C6H13N
reactant | butyl bromide | C(CCC)Br | C4H9Br
product | 1-butylazepane | C(CCC)N1CCCCCC1 | C10H21N
